US09120749B2
{6-Bromo-4-[trans-4-{(dimethylamino)methyl}cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (560 mg, 1.80 mmol) was reacted with trans-4-[(dimethylamino)methyl]cyclohexanamine (620 mg, 2.70 mmol) to afford the desired product (335 mg, 43%) as a yellow solid: 1H NMR (300 MHz, CD3OD) δ 9.12 (s, 1H), 8.41 (d, J=2.0 Hz, 1H), 7.84 (dd, J=8.9, 2.1 Hz, 1H), 7.75 (d, J=8.9 Hz, 1H), 4.12-3.84 (m, 1H), 2.91-2.72 (m, 1H), 2.42-2.26 (m, J=6.6 Hz, 8H), 2.21 (d, J=11.6 Hz, 2H), 1.94 (d, J=12.1 Hz, 2H), 1.75-1.59 (m, 1H), 1.59-1.35 (m, 2H), 1.25-0.98 (m, 6H).

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1.80 mmol, 560 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | trans-4-[(dimethylamino)methyl]cyclohexanamine | 2.70 mmol, 620 mg | CN(C)C[C@@H]1CC[C@H](CC1)N | C9H20N2
product | {6-Bromo-4-[trans-4-{(dimethylamino)methyl}cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 335 mg, 43% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN(C)C | C22H28BrN3O
